US07037909B2
(4-Hydroxy-phenyl)-acetic acid hydrazide
Neat anhydrous hydrazine 21.0 g (654 mmol) was added to a solution of p-hydroxyphenylacetic acid methyl ester 27.18 g (163.5 mmol) in MeOH (100 mL) and the mixture was heated to 50-55° C. and stirred at this temperature for 90 min (water bath). Cooled, stirred for extra 1 hour, the precipitate collected by filtration, compressed on the frit, washed with MeOH (3×10 mL) and dried on high vacuum. A second fraction was obtained by cooling the supernatants to −15° C. overnight and filtering the formed precipitate.

reactant | hydrazine | 654 mmol, 21.0 g | NN | H4N2
reactant | p-hydroxyphenylacetic acid methyl ester | 163.5 mmol, 27.18 g | COC(CC1=CC=C(C=C1)O)=O | C9H10O3
reactant | water | O | H2O
solvent | MeOH | 100 mL | CO | CH4O
product | (4-Hydroxy-phenyl)-acetic acid hydrazide | OC1=CC=C(C=C1)CC(=O)NN | C8H10N2O2
